2145-09-27 06:39:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: 72-F w/ CAD s/p CABG, CHF (EF 35%), AAA s/p repair,
   PVD s/p multiple bypasses, cryptogenic cirrhosis (likely [**2-27**] NASH) w/
   grade II esophageal varices, portal gastropathy, and gastric
   angioectasias, peptic ulcer disease, and h/o lower GI bleeding [**2-27**] AVMs
   and diverticulosis, who presented to the hospital w/ chest pain and low
   hematocrit. The pt had noted chest pain similar to the chest pain she
   has experienced previously in the setting of a low hematocrit. She had
   also noted through her VNA's biweekly Hct checks that her hematocrit
   had been falling from 30 to 26. She also noted maroon-colored stools in
   the 1-2 days prior to admission, so she came to the ED for evaluation.
   In the ED, VS were stable and she was noted to have Guaiac-positive
   maroon stools. GI was consulted, who recommended IV PPI and
   transfusion. She received 2units PRBCs and 40mg IV Protonix. Her chest
   pain was relieved with NTG, and her ECGs were unchanged from baseline.
   She was admitted to the floor for further care. There she was seen by
   the hepatology team and underwent EGD that showed 3 cords of Grade II
   varices that were banded x4, and underwent sigmoidoscopy that showed
   Grade II internal and external hemorrhoids. She was being monitored on
   the floor on an Octeotride gtt, IV PPI [**Hospital1 **], and CTX IV daily. She
   proceeded to have multiple episodes of melanotic stools on the night
   prior to transfer. She was noted to have stable Hcts overnight (35, 36,
   36, 35) and remained HD stable, but was noted in the morning to be
   orthostatic, with a drop in her SBP from 120 to 80. She was transferred
   into the ICU initially for a planned endsocopy by the Hepatology team,
   but it was felt that she should be monitored in the ICU overnight prior
   to any intervention.
   24 Hour Events:
   HCT continued to drop O/N from 36.9 to 31.9. She was transfused 1U pRBC
   PLT dropped below 50 and she was transfused 1U PLT
   CP o/n that did not respond to NTG. Similar to past chest pain in
   character. ECG was WNL. CE neg x 1, 2 more pending
   Planned for endoscopy today
   Allergies:
   Cardizem (Oral) (Diltiazem Hcl)
   Rash;
   Codeine
   Unknown;
   Optiray 300 (Intraven.) (Ioversol)
   pt. reported ch
   Heparin Agents
   POSITIVE HEPARI
   Atorvastatin
   cramps in thigh
   Spironolactone
   Diarrhea;
   Last dose of Antibiotics:
   Infusions:
   Octreotide - 50 mcg/hour
   Other ICU medications:
   Dextrose 50% - [**2145-9-26**] 04:35 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-9-27**] 06:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.8
C (96.5
   Tcurrent: 35.8
C (96.5
   HR: 54 (54 - 73) bpm
   BP: 107/41(58) {107/39(58) - 159/53(81)} mmHg
   RR: 15 (14 - 22) insp/min
   SpO2: 93%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 65 Inch
             Total In:
                                                                  1,312 mL
                                                                    704 mL
   PO:
             TF:
   IVF:
                                                                  1,262 mL
                                                                    704 mL
   Blood products:
   Total out:
                                                                    900 mL
                                                                    570 mL
   Urine:
                                                                    900 mL
                                                                    570 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    412 mL
                                                                    134 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 93%
   ABG: ///27/
   Physical Examination
   GEN: NAD, A&Ox3, chatting pleasantly
   HEENT: MMM, only mild pallor
   CV: RRR, III/VI last systolic blowing murmur head best at the lower L
   sternal border
   PULM: CTAB
   ABD: BS+ NTND no masses or HSM
   LIMBS: No clubbing, edema or cyanosis. Scattered bruises at puncture
   sites, no petechiae
   Labs / Radiology
   47 K/uL
   11.2 g/dL
   129 mg/dL
   2.2 mg/dL
   27 mEq/L
   4.2 mEq/L
   63 mg/dL
   104 mEq/L
   139 mEq/L
   31.9 %
   3.4 K/uL
        [image002.jpg]
                             [**2145-9-26**]  04:31 PM
                             [**2145-9-26**]  04:43 PM
                             [**2145-9-26**]  11:22 PM
                             [**2145-9-27**]  04:30 AM
   WBC
   3.4
   Hct
   35.1
   33.9
   31.9
   Plt
   47
   Cr
   2.2
   TropT
   0.03
   Glucose
   129
   Other labs: PT / PTT / INR:18.4/41.7/1.7, CK / CKMB /
   Troponin-T:47//0.03, ALT / AST:[**7-26**], Alk Phos / T Bili:53/1.1, Amylase
   / Lipase:71/53, Albumin:3.3 g/dL, LDH:201 IU/L, Ca++:7.9 mg/dL,
   Mg++:2.1 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
   72-F w/ CAD s/p CABG, CHF (EF 35%), AAA s/p repair, PVD s/p multiple
   bypasses, cryptogenic cirrhosis (likely [**2-27**] NASH) w/ grade II
   esophageal varices, portal gastropathy, and gastric angioectasias,
   peptic ulcer disease, and h/o lower GI bleeding [**2-27**] AVMs and
   diverticulosis, who presented to the hospital w/ chest pain and anemia.
   Seen by hepatology w/ EGD showing esophageal varices s/p banding x4, on
   Octeotride gtt, IV PPI [**Hospital1 **], and CTX IV daily, now w/ continued
   melanotic stools and orthostatic hypotension but otherwise stable
   hemodynamics and hematocrits, transferred to the ICU for closer
   monitoring and potential scope.
   .
   #. Variceal bleeding - Pt p/w anemia as below, likely [**2-27**] variceal
   bleeding given multiple episodes of melena. Seen by hepatology, EGD
   shows esophageal varices s/p banding x4, also on Octeotride gtt, IV PPI
   [**Hospital1 **], and CTX IV daily, but w/ continued melanotic stools and
   orthostatic hypotension.
   - Hepatology following, appreciate recs
   - cont Octeotride gtt for total 72hrs (likely d/c tomorrow)
   - cont IV PPI [**Hospital1 **], sucralfate
   - cont IV CTX daily for SBP given variceal bleeding (day 1 [**2145-9-24**])
   - keep NPO for potential scope in AM
   - monitor Q6h Hcts overnight, transfuse <30
   - multiple large-bore PIVs
   - active type-and-cross
   - holding anti-platelets / anti-coagulation
   - IVF given orthostatic hypotension
   - cont Maalox PRN heartburn
   - Hold lisinopril, carvidilol, and lasix
   - Switch isosorbide mononitrate to shorter acting dinitrate
   .
   #. Chest pain - Pt p/w c/o chest pain in setting of anemia, similar to
   previous chest pains. Likely mild demand ischemia given pt's h/o CAD,
   also possibly a component of anxiety.
   - check 12-lead ECG
   - r/o MI w/ serial CEs
   - SL NTG PRN, IV Morphine PRN
   - monitor Q6h Hcts, transfuse <30
   - Give
GI cocktail
 of lidocaine, benedryl, and Maalox for chest pain
   to evaluate for GI cause
   - Consider anxiety as component
   .
   #. Congestive heart failure - Pt w/ h/o CHF w/ EF 35%, likely ischemic
   cardiomyopathy. Pt has received 4units PRBCs on this admission so far.
   - monitor fluid status with Foley catheter and O2 requirement closely
   - hold home meds: Lasix, carvedilol, and lisinopril
   - cont daily weight and strict I/Os
   #. Acute on chronic renal failure - Pt p/w Cr elevated to 2.9 on
   admission, up from baseline approx 2.0. Likely dehydrated in setting of
   GI bleeding, now improved to 2.4 w/ PRBCs and hydration.
   - cont hydration
   - monitor fluid status with Foley catheter, daily weights, strict I/Os
   - if no longer improving, consider urine lytes and/or renal U/S's
   #. New murmur: III/VI blowing systolic murmur heard best at the lower
   left sternal border
   -          Echo today or tomorrow
   -          No known history of murmur on past echo
   #. Diabetes mellitus type 2 - Pt controlled at home w/ glargine and
   sliding scale.
   - cont glargine 12units QHS, [**1-27**]-dose when NPO
   - cont HISS to cover
   - FSBS QIDACHS
   ICU Care
   Nutrition:
   Glycemic Control:  SS plus standing insulin
   Lines:
   20 Gauge x 2 - [**2145-9-26**] 04:42 PM
   18 Gauge - [**2145-9-26**] 10:25 PM
   Prophylaxis:
   DVT: boots
   Stress ulcer: IV PPI plus sucralfate
   VAP:
   Comments:
   Communication:   daughter [**Name (NI) 16**] [**Numeric Identifier 4940**]
   [**Name2 (NI) 66**] status: Full code
   Disposition: MICU

2145-09-28 04:27:00 Physician Resident Progress Note
24 Hour Events:
   - D/c'ed isosorbide mononitrate, ACE inhib, Lasix, and Carvedilol [**2-27**]
   GI bleed
   - Added isosorbide dinitrate
   - Checking labs approx q6hr.  While in MICU, transfused 1 un pRBC and 1
   un platelets.  HCT responded, however, platelets continue to be low.
   - Had one melanotic stool overnight
   - Hepatology will not scope pt unless HCTs begin to drop as she has had
   multiple recent studies.  Also, advised not to transfuse to a goal of
   >30 as could increase variceal bleeding.  Will need repeat EGD in [**2-28**]
   weeks.
   - Transitioned to clears
   - Will obtain TTE today to eval for valvular lesions.  Yesterday, heard
   a systolic murmur that was thought to be new, however, it was noted in
   a prior discharge summary from [**5-3**]
   Allergies:
   Cardizem (Oral) (Diltiazem Hcl)
   Rash;
   Codeine
   Unknown;
   Optiray 300 (Intraven.) (Ioversol)
   pt. reported ch
   Heparin Agents
   POSITIVE HEPARI
   Atorvastatin
   cramps in thigh
   Spironolactone
   Diarrhea;
   Last dose of Antibiotics:
   Ceftriaxone - [**2145-9-27**] 02:17 PM
   Infusions:
   Octreotide - 50 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2145-9-27**] 11:00 AM
   Carafate (Sucralfate) - [**2145-9-27**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-9-28**] 04:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.1
   Tcurrent: 36.1
C (97
   HR: 56 (54 - 71) bpm
   BP: 133/47(69) {107/36(55) - 159/116(119)} mmHg
   RR: 19 (13 - 20) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
             Total In:
                                                                  2,426 mL
                                                                     79 mL
   PO:
                                                                    330 mL
             TF:
   IVF:
                                                                  1,242 mL
                                                                     79 mL
   Blood products:
                                                                    674 mL
   Total out:
                                                                  3,970 mL
                                                                    350 mL
   Urine:
                                                                  3,970 mL
                                                                    350 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,544 mL
                                                                   -271 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 92%
   ABG: ///28/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   49 K/uL
   12.8 g/dL
   104 mg/dL
   2.1 mg/dL
   28 mEq/L
   4.0 mEq/L
   55 mg/dL
   102 mEq/L
   139 mEq/L
   36.6 %
   3.5 K/uL
        [image002.jpg]
                             [**2145-9-26**]  04:31 PM
                             [**2145-9-26**]  04:43 PM
                             [**2145-9-26**]  11:22 PM
                             [**2145-9-27**]  04:30 AM
                             [**2145-9-27**]  03:14 PM
                             [**2145-9-27**]  08:52 PM
                             [**2145-9-28**]  03:20 AM
   WBC
   3.4
   3.6
   3.5
   Hct
   35.1
   33.9
   31.9
   35.1
   37.7
   36.6
   Plt
   47
   47
   49
   Cr
   2.2
   2.1
   TropT
   0.03
   0.05
   0.05
   Glucose
   129
   104
   Other labs: PT / PTT / INR:18.0/39.6/1.6, CK / CKMB /
   Troponin-T:56//0.05, ALT / AST:[**7-26**], Alk Phos / T Bili:53/1.1, Amylase
   / Lipase:71/53, Albumin:3.3 g/dL, LDH:201 IU/L, Ca++:8.2 mg/dL,
   Mg++:2.0 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
   72-F w/ CAD s/p CABG, CHF (EF 35%), AAA s/p repair, PVD s/p multiple
   bypasses, cryptogenic cirrhosis (likely [**2-27**] NASH) w/ grade II
   esophageal varices, portal gastropathy, and gastric angioectasias,
   peptic ulcer disease, and h/o lower GI bleeding [**2-27**] AVMs and
   diverticulosis, who presented to the hospital w/ chest pain and anemia.
   Seen by hepatology w/ EGD showing esophageal varices s/p banding x4, on
   Octeotride gtt, IV PPI [**Hospital1 **], and CTX IV daily, now w/ continued
   melanotic stools and orthostatic hypotension but otherwise stable
   hemodynamics and hematocrits, transferred to the ICU for closer
   monitoring and potential scope.
   .
   #. Variceal bleeding - Pt p/w anemia as below, likely [**2-27**] variceal
   bleeding given multiple episodes of melena. Seen by hepatology, EGD
   shows esophageal varices s/p banding x4, also on Octeotride gtt, IV PPI
   [**Hospital1 **], and CTX IV daily, but w/ continued melanotic stools and
   orthostatic hypotension.
   - Hepatology following, appreciate recs
   - cont Octeotride gtt for total 72hrs (likely d/c tomorrow)
   - cont IV PPI [**Hospital1 **], sucralfate
   - cont IV CTX daily for SBP given variceal bleeding (day 1 [**2145-9-24**]).
   No IV calcium to be run while on ceftriaxone.
   - Advanced to clears
   - monitor Q6h Hcts overnight, transfuse <25 given risk for variceal
   bleeding
   - multiple large-bore PIVs
   - active type-and-cross
   - holding home anti-hypertensives (Lasix, lisinopril, carvedilol)
   except Isordil
   - IVF given orthostatic hypotension
   - cont Maalox PRN heartburn / GI cocktail
   .
   #. Chest pain - Pt p/w c/o chest pain in setting of anemia, similar to
   previous chest pains. Likely mild demand ischemia given pt's h/o CAD,
   also possibly a component of anxiety.
   - Obtained 12 lead ECG
   - r/o MI w/ serial CEs
   - SL NTG PRN, IV Morphine PRN
   - Monitor HCT
   - holding home anti-hypertensives (Lasix, lisinopril, carvedilol)
   except Isordil in setting of GI bleed as above
   .
   #. Congestive heart failure - Pt w/ h/o CHF w/ EF 35%, likely ischemic
   cardiomyopathy. Pt has received 4units PRBCs on this admission so far.
   - monitor fluid status with Foley catheter and O2 requirement closely
   - holding home anti-hypertensives (Lasix, lisinopril, carvedilol)
   except Isordil in setting of GI bleed as above
   - recheck TTE given possibility of new vs changed systolic murmur
   - cont daily weight and strict I/Os
   .
   #. Acute on chronic renal failure - Pt p/w Cr elevated to 2.9 on
   admission, up from baseline approx 2.0. Likely dehydrated in setting of
   GI bleeding, now improved to 2.1 w/ PRBCs and hydration.
   - cont hydration as needed
   - holding home anti-hypertensives (Lasix, lisinopril, carvedilol)
   except Isordil in setting of GI bleed as above
   - monitor fluid status with Foley catheter, daily weights, strict I/Os
   - if no longer improving, consider urine lytes and/or renal U/S's
   .
   #. Diabetes mellitus type 2 - Pt controlled at home w/ glargine and
   sliding scale.
   - cont glargine 12units QHS
   - cont HISS to cover
   - FSBS QIDACHS
   ICU Care
   Nutrition:
   Glycemic Control:  Insulin- glargine and SS
   Lines:
   20 Gauge - [**2145-9-26**] 04:42 PM
   18 Gauge - [**2145-9-27**] 02:00 PM
   Prophylaxis:
   DVT: No heparin [**2-27**] + HIT PF4 Ab.  Has pneumo boots
   Stress ulcer:  PPI, sucralfate
   VAP:
   Comments:
   Communication:  Talked to pt
s daughter [**Name (NI) 16**] yesterday.  She is a PACU
   nurse here at [**Hospital1 54**]
   Code status: Full code
   Disposition: